US09290451B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (1,1-dimethyl-3-morpholin-4-yl-propyl)-amide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 42 a) and 1,1-dimethyl-3-morpholin-4-yl-propylamine (Example 35 d) as starting materials, MS (EI): m/e=388.3 [M+H]+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | 1,1-dimethyl-3-morpholin-4-yl-propylamine | CC(CCN1CCOCC1)(C)N | C9H20N2O
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (1,1-dimethyl-3-morpholin-4-yl-propyl)-amide | CC(CCN1CCOCC1)(C)NC(=O)C1=NC(=C(C=C1)C1CC1)OCC1CC1 | C22H33N3O3
